US04305868
In a 1-liter three-neck, round-bottom flask equipped with a thermometer, stirrer, dropping funnel and condenser were placed 36.9 g of N-(2,2-dimethyl-3-hydroxypropyl)-stearamide, 25 ml of triethylamine and 250 ml of toluene. To this stirred mixture was added 29.6 g of 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyl chloride. The mixture was filtered, stripped, and the residue was dissolved in hot methanol. The 2,2-dimethyl-3-stearamidopropyl stearate, melting at 60°-62° C. was isolated. The methanol solution was stripped, and the residue was dissolved in acetonitrile. The title compound was isolated; it melted at 44° C.

reactant | N-(2,2-dimethyl-3-hydroxypropyl)-stearamide | 36.9 g | CC(CNC(CCCCCCCCCCCCCCCCC)=O)(CO)C | C23H47NO2
reactant | triethylamine | 25 ml | C(C)N(CC)CC | C6H15N
reactant | 3-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyl chloride | 29.6 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)Cl | C17H25ClO2
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethyl-3-stearamidopropyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OCC(CNC(CCCCCCCCCCCCCCCCC)=O)(C)C | C41H81NO3
